US04115095
Preparation of Ethyl 5-Phenyl-1,2,4-Thiadiazole-3-Carboxylate
A solution of 8.76 g (0.050 mol) of ethyl 2-oxo-1,3,4-oxathiazole-5-carboxylate in 180 g (35 equiv., 1.75 mol) of redistilled benzonitrile was held at reflux for 72 hours. The solution, which contained the product in 62% yield (gc assay), was concentrated under vacuum to 90° C (0.5 torr). The residue was heated with 200 ml of hexane at reflux; the supernatant was decanted, treated with charcoal, filtered, and concentrated under vacuum to 6.1 g of oil and solid. The mixture was chromatographed on 200 g of silica gel (Woelm, for dry column chromatography) with benzene. The first 500 ml of eluate contained 0.8 g of product and impurities. The next 1200 ml of eluate gave 3.82 g (33%) of pure liquid product (gc assay), which crystallized after several months, mp 32°-35° C; nD25 = 1.5937; mass spectrum m/e (rel. intensity, fragment) 234 (18, M+ ), 206 (3, M+ -C2H4), 189 (10, M+ -OEt), 135 (100, M+ -EtO2CCN), 103 (14, C6H5CN+).

reactant | ethyl 2-oxo-1,3,4-oxathiazole-5-carboxylate | 0.050 mol, 8.76 g | O=C1OC(=NS1)C(=O)OCC | C5H5NO4S
reactant | benzonitrile | 1.75 mol, 180 g, 35 equiv. | C(C1=CC=CC=C1)#N | C7H5N
product | Ethyl 5-Phenyl-1,2,4-Thiadiazole-3-Carboxylate | 3.82 g, 33% | C1(=CC=CC=C1)C1=NC(=NS1)C(=O)OCC | C11H10N2O2S
